US08614208B2
Production of ethyl 4,6-dichloro-2-(methylsulfanyl)pyrimidine-5-carboxylate
Under an argon atmosphere, to a solution of diisopropylamine (15.7 mL, 112 mmol) in THF (70 mL) was added dropwise butyllithium (1.6M hexane solution, 70 mL, 112 mmol) at −78° C. The mixture was stirred at 0° C. for 30 min and cooled to −78° C. A solution of 4,6-dichloro-2-(methylsulfanyl)pyrimidine (14.12 g, 72.4 mmol) in THF (20 mL) was added dropwise thereto, and the mixture was stirred at −78° C. for 1 hr. A solution of ethyl chlorocarbonate (13.9 mL, 145 mmol) in THF (20 ml) was added dropwise thereto, and the mixture was stirred at −78° C. for 30 min, and then at 0° C. for 30 min. Water was added thereto, and the mixture was extracted twice with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluate, hexane:ethyl acetate=100:0→90:10) to give the title compound (13.28 g, 69%) as a colorless solid.

reactant | diisopropylamine | 112 mmol, 15.7 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 112 mmol, 1.6M, 70 mL | C(CCC)[Li]
reactant | 4,6-dichloro-2-(methylsulfanyl)pyrimidine | 72.4 mmol, 14.12 g | ClC1=NC(=NC(=C1)Cl)SC | C5H4Cl2N2S
reactant | ethyl chlorocarbonate | 145 mmol, 13.9 mL | C(OCC)(=O)Cl | C3H5ClO2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | ethyl 4,6-dichloro-2-(methylsulfanyl)pyrimidine-5-carboxylate | 13.28 g, 69% | ClC1=NC(=NC(=C1C(=O)OCC)Cl)SC | C8H8Cl2N2O2S
